US06825170B2
(2E)-3-[5-(2-Pyridinyl)-2-thienyl]-2-propenal
The title compound was prepared by a procedure analogous to Reference Example 30 by substituting 5-(2-pyridinyl)-2-thiophenecarboxaldehyde (prepared as described in J. Chem Soc., Perkin Trans. 2 1998, 437) for the 4-(1H-pyrazol-1-yl)-benzaldehyde of Reference Example 30. MS 216 (M+H)+.

reactant | 5-(2-pyridinyl)-2-thiophenecarboxaldehyde | N1=C(C=CC=C1)C1=CC=C(S1)C=O | C10H7NOS
reactant | 4-(1H-pyrazol-1-yl)-benzaldehyde | N1(N=CC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
product | (2E)-3-[5-(2-Pyridinyl)-2-thienyl]-2-propenal | N1=C(C=CC=C1)C1=CC=C(S1)/C=C/C=O | C12H9NOS
